US06919365B2
5-Methyl-3-naphthylcarbonyl-1-(2-oxo-2-phenylethyl)-5-phenylimidazolidine-2,4-dione (Compound 26)
5-Methyl-3-naphthylcarbonyl-5-phenylimidazolidine-2,4-dione (43 mg) was dissolved in DMF (0.4 mL), and sodium hydride (60%, in oil) (5 mg) was added. Then, 25 mg of 2-bromoacetophenone was added, and the mixture was stirred at room temperature overnight. Ethyl acetate (9.5 mL) was added to the reaction solution, separated out white precipitates were filtered, and the filtrate was concentrated and purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain 33 mg of white crystals.

reactant | 5-Methyl-3-naphthylcarbonyl-5-phenylimidazolidine-2,4-dione | 43 mg | CC1(C(N(C(N1)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O)C1=CC=CC=C1 | C21H16N2O3
reactant | sodium hydride | 5 mg | [H-].[Na+]
reactant | 2-bromoacetophenone | 25 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | Ethyl acetate | 9.5 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 5-Methyl-3-naphthylcarbonyl-1-(2-oxo-2-phenylethyl)-5-phenylimidazolidine-2,4-dione | 33 mg | CC1(C(N(C(N1CC(C1=CC=CC=C1)=O)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O)C1=CC=CC=C1 | C29H22N2O4
